US06727254B2
Step 1: 2-Bromo-4-(tert-Butoxycarbonylamino)pyridine
Stir a mixture of 4-amino-2-bromopyridine (1.00 g, 5.79 mmol), Et3N (1.75 g, 17.37 mmol) and di-tert-butyl dicarbonate (1.90 g, 8.69 mmol) in CH2Cl2 (20 ml) at RT overnight. Dilute with CH2Cl2(10 ml), wash with saturated aqueous NaHCO3, dry over MgSO4 and concentrate. Purify the residue by column chromatography to give the desired compound.

reactant | 4-amino-2-bromopyridine | 5.79 mmol, 1.00 g | NC1=CC(=NC=C1)Br | C5H5BrN2
reactant | Et3N | 17.37 mmol, 1.75 g | CCN(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 8.69 mmol, 1.90 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | 2-Bromo-4-(tert-Butoxycarbonylamino)pyridine | BrC1=NC=CC(=C1)NC(=O)OC(C)(C)C | C10H13BrN2O2
